US08278482B2
1-(3-Amino-3-methylbutyl)-4,4-difluoro-1-methylpiperidinium chloride hydrochloride
1-(3-(Benzyloxycarbonylamino)-3-methylbutyl)-4,4-difluoro-1-methylpiperidinium chloride (1.78 g, 4.49 mmol) was dissolved into water (100 mL) and 10% Pd/C (300 mg) was added to the flask. It was sealed and degassed with vacuum and flushed with hydrogen from a balloon (3 times). The reaction was stirred at room temperature for 17 h. The suspension was filtered through a pad of Celite® and the solid was washed with water (2×50 mL). The filtrate was concentrated to a viscous oil which became a white foam after being dried under high vacuum (1.30 g, quant). LRMS (ESI+) for C11H23F2N2+ (221.1); Found: 221 (M+).

reactant | 1-(3-(Benzyloxycarbonylamino)-3-methylbutyl)-4,4-difluoro-1-methylpiperidinium chloride | 4.49 mmol, 1.78 g | [Cl-].C(C1=CC=CC=C1)OC(=O)NC(CC[N+]1(CCC(CC1)(F)F)C)(C)C
catalyst | Pd/C | 300 mg | [Pd] | Pd
solvent | water | 100 mL | O | H2O
product | 1-(3-Amino-3-methylbutyl)-4,4-difluoro-1-methylpiperidinium chloride hydrochloride | Cl.[Cl-].NC(CC[N+]1(CCC(CC1)(F)F)C)(C)C | InChI=1S/C11H23F2N2.2ClH/c1-10(2,14)4-7-15(3)8-5-11(12,13)6-9-15;;/h4-9,14H2,1-3H3;2*1H/q+1;;/p-1
